US04731471
To a mixture of sodium metal (0.116 gm, 0.005 mole) in methanol (180 ml) was added {[5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-9a-(2-trifluoroacetoxyethyl)-1H-fluoren-7-yl)oxy}acetonitrile (8.20 g, 0.0183 mole). The reaction mixture was stirred for 11/4 hours in a nitrogen atmosphere then treated with ammonium chloride (2.0 g, 37 mMole) and stirring was continued for 21/2 hours. The methanol was evaporated in vacuo, the residue dissolved in water, allowed to stand for one hour, treated with 10N NaOH (10 ml), extracted with diethyl ether (100 ml) and then CH2Cl2 (3×50 ml), washed with water, dried over potassium carbonate and evaporated in vacuo. The residue was dissolved in diethyl ether, treated with a slight excess of ethanolic HCl, filtered under nitrogen, and washed with diethyl ether to give the {[5,6-dichloro-9a-(2-hydroxyethyl)-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}ethanimidamide hydrochloride.

reactant | sodium | 0.005 mole, 0.116 gm | [Na] | Na
reactant | {[5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-9a-(2-trifluoroacetoxyethyl)-1H-fluoren-7-yl)oxy}acetonitrile | 0.0183 mole, 8.20 g | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC#N)CCOC(C(F)(F)F)=O)=O | C19H14Cl2F3NO4
reactant | ammonium chloride | 37 mMole, 2.0 g | [Cl-].[NH4+]
solvent | methanol | 180 ml | CO | CH4O
product | {[5,6-dichloro-9a-(2-hydroxyethyl)-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}ethanimidamide hydrochloride | Cl.ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC(N)=N)CCO)=O | InChI=1S/C17H18Cl2N2O3.ClH/c18-15-12(24-8-13(20)21)5-9-7-17(3-4-22)2-1-10(23)6-11(17)14(9)16(15)19;/h5-6,22H,1-4,7-8H2,(H3,20,21);1H
